US05690858
A solution of 6.46 g (16.4 mM) of ethyl p-(10-undecenyl)oxybiphenylcarboxylic acid and 2.18 g (54.6 mM) of sodium hydroxide in 4 ml of water was mixed with 30 ml of methanol, followed by 3 hours of refluxing at 50° C. After the reaction, 20 ml of distilled water was added to the reaction mixture, followed by distilling-off of methanol and acidification with 6M-HCl to obtain a crude product. The crude product was filtered and dried in a desiccator under reduced pressure to obtain 5.56 g (15.2 mM) of p-(10-undecenyl)oxybiphenylcarboxylic acid (Yield: 92.8%).

reactant | ethyl p-(10-undecenyl)oxybiphenylcarboxylic acid | 16.4 mM, 6.46 g | C(C)C1=C(C(=CC=C1OCCCCCCCCCC=C)C1=CC=CC=C1)C(=O)O | C26H34O3
reactant | sodium hydroxide | 54.6 mM, 2.18 g | [OH-].[Na+]
reactant | methanol | 30 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | water | 4 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | p-(10-undecenyl)oxybiphenylcarboxylic acid | 15.2 mM, 5.56 g, Yield: 92.8% | C(CCCCCCCCC=C)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C24H30O3
